US06444829B1
(step 13) To 148 mg (0.17 mmol) ) (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid N′-benzyl-N′-(4-methoxy-benzenesulfonyl)-hydrazide in 3.0 ml TFA were added 276 μl (1.73 mmol, 10 eq) triethylsilane at 0° C. The mixture was stirred at RT for 30 min, the solvent was evaporated and the residue was redissolved in ethyl acetate, sat. aq. NaHCO3 solution, the layers were separated and the inorganic one extracted with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4 and evaporated. The residue was purified by flash chromatography with a gradient of ethyl acetate:hexane (1:1.5 to 1:1) yielding 76 mg (72%) (2S,4R)-4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid N′-benzyl-N′-(4-methoxy-benzenesulfonyl)-hydrazide as white foam, MS: 612 (MH+).

reactant | (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid N′-benzyl-N′-(4-methoxy-benzenesulfonyl)-hydrazide | C(C1=CC=CC=C1)N(NC(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C48H43N3O6S3
reactant | triethylsilane | 1.73 mmol, 276 μl, 10 eq | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 3.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2S,4R)-4-Mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid N′-benzyl-N′-(4-methoxy-benzenesulfonyl)-hydrazide | 76 mg, 72% | C(C1=CC=CC=C1)N(NC(=O)[C@H]1N(C[C@@H](C1)S)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C29H29N3O6S3
